US09212173B2
Step 1—methyl 3-methyl-3-(3-methyl-4-nitro-1H-pyrazol-1-yl)butanoate
A solution of 3-methyl-4-nitro-1H-pyrazole (1.00 g, 7.87 mmol), methyl 3-methylbut-2-enoate (2.20 g, 18.9 mmol), and DBU (3.10 g, 20.5 mmol) in DMF (5.0 mL) was stirred overnight. The mixture was purified by reverse phase Combiflash to afford the title compound (130 mg, 7%) as yellow oil. LC-MS (ESI): m/z=242 (M+H)+.

reactant | 3-methyl-4-nitro-1H-pyrazole | 7.87 mmol, 1.00 g | CC1=NNC=C1[N+](=O)[O-] | C4H5N3O2
reactant | methyl 3-methylbut-2-enoate | 18.9 mmol, 2.20 g | CC(=CC(=O)OC)C | C6H10O2
reactant | DBU | 20.5 mmol, 3.10 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | 5.0 mL | CN(C)C=O | C3H7NO
product | 1—methyl 3-methyl-3-(3-methyl-4-nitro-1H-pyrazol-1-yl)butanoate | 130 mg, 7% | CC(CC(=O)OC)(C)N1N=C(C(=C1)[N+](=O)[O-])C | C10H15N3O4
